US07071201B2
(280-1) 1-Hydroxy-7-methoxy-1,2,3,4-tetrahydronaphthalene
1-[4-(4-Fluorophenylacetyl)piperazin-1-yl]-7-methoxy-1,2,3,4-tetrahydronaphthalene (0.41 g) and lithium aluminum hydride (0.05 g) were heated under reflux in THF (15 ml) for 6 hr. Next, the reaction solution was cooled and water (50 ml) a 5 N aqueous solution (50 ml) of sodium hydroxide and further water (150 ml) were successively added thereto. After stirring the resultant mixture at room temperature for 1 hr, the resulting precipitate was filtered through celite and washed with THF. The filtrate was concentrated under reduced pressure and the resulting residue was purified by silica gel column chromatography (toluene/acetone system) to give the title compound (0.38 g) as an oil.

reactant | 1-[4-(4-Fluorophenylacetyl)piperazin-1-yl]-7-methoxy-1,2,3,4-tetrahydronaphthalene | 0.41 g | FC1=CC=C(C=C1)CC(=O)N1CCN(CC1)C1CCCC2=CC=C(C=C12)OC | C23H27FN2O2
reactant | lithium aluminum hydride | 0.05 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 50 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 150 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-Hydroxy-7-methoxy-1,2,3,4-tetrahydronaphthalene | 0.38 g | OC1CCCC2=CC=C(C=C12)OC | C11H14O2
